Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: CARDIOTHORACIC
 
Allergies: 
lisinopril / shellfish derived
 
Attending: ___.
 
Chief Complaint:
Dyspnea on exertion
 
Major Surgical or Invasive Procedure:
___ 
Aortic valve replacement with a 25 mm
___ Biocor Epic tissue valve.

 
History of Present Illness:
Mr. ___ is a ___ year old man with a history of aortic 
insufficiency, chronic kidney disease, chronic obstructive 
pulmonary disease, hyperlipidemia, hypertension, sleep apnea, 
and tricuspid regurgitation. He has noted dyspnea on exertion 
while ambulating to the bathroom. He has been on Lasix for 
diuresis in the past without improvement in his symptoms and was 
recently changed to Torsemide 100 mg daily with mild 
improvement. An echocardiogram in ___ demonstrated a 
depressed ejection fraction, severe aortic insufficiency, 
dilated aortic root, and moderate tricuspid regurgitation. 
Cardiac catheterization revealed elevated filling pressure 
without obstructive coronary
artery disease. He was referred to Dr. ___ surgical 
consultation. He presents today for routine PAT's. Since his 
last office visit, there has been no clinical change in his 
condition.
 
Past Medical History:
Aortic Insufficiency s/p Aortic valve replacement
Past medical history:
Anemia
Chronic Kidney Disease (Cre 1.76-2.08) - Single kidney
Renal atrophy
Chronic Obstructive Pulmonary Disease 
Depression
Gout 
Hyperlipidemia
Hypertension
Hypothyroid
Non-Ischemic Cardiomyopathy
Obesity 
Pulmonary Hypertension
Seizure
Sleep Apnea, CPAP recommended but patient declined
Tricuspid Regurgitation
Appendectomy
 
Social History:
___
Family History:
No premature coronary artery disease
Father had an MI in his early ___. Mother without heart 
disease. Brother with CABG in his ___.

 
Physical Exam:
Vital Signs sheet entries for ___: 
BP: 140/85 (left arm ). Heart Rate: 80. O2 Saturation%: 94 (room
air ). Resp. Rate: 17. Pain Score: 0.

Height: 72"    Weight: 198lb

General: NAD
Skin: Dry [X] intact [X]
HEENT: PERRLA [X] EOMI [X]
Neck:  Supple [X] Full ROM [X]
Chest: Decreased at bases bilaterally
Heart: RRR, II/VI diastolic, I/VI systolic murmur
Abdomen: Soft [X] non-distended [X] non-tender [X] bowel sounds 
+ [X]
Extremities: Warm [X], well-perfused [X]  2+ ___ Edema 
Varicosities: None [X]
Neuro: Grossly intact [X]
Pulses:
Femoral      Right:2   Left:2
DP           Right:1   Left:1
___           Right:1   Left:1
Radial       Right:2   Left:2

Carotid Bruit:        None appreciated

Discharge exam 
General: NAD
Skin: Dry [X] intact [X]
HEENT: PERRLA [X] EOMI [X]
Neck:  Supple [X] Full ROM [X]
Chest: Decreased at bases bilaterally
Heart: RRR
Abdomen: Soft [X] non-distended [X] non-tender [X] bowel sounds 
+ [X]
Extremities: Warm [X], well-perfused [X]  trace ___ Edema 
Varicosities: None [X]
Neuro: Grossly intact [X]
Pulses:
Femoral      Right:2   Left:2
DP           Right:1   Left:1
___           Right:1   Left:1
Radial       Right:2   Left:2

Carotid Bruit:        None appreciated
 
Pertinent Results:
Echo ___: PRE-BYPASS: The left atrium is markedly dilated. 
Moderate to severe spontaneous echo contrast is seen in the body 
of the left atrium. No mass/thrombus is seen in the left atrium 
or left atrial appendage. The right atrium is dilated. No atrial 
septal defect is seen by 2D or color Doppler. The left 
ventricular cavity is dilated. Overall left ventricular systolic 
function is severely depressed (LVEF= ___ %). with mild to 
moderate global free wall hypokinesis. The aortic root is mildly 
dilated at the sinus level. The ascending aorta is mildly 
dilated. The descending thoracic aorta is mildly dilated. There 
are three aortic valve leaflets. There is no aortic valve 
stenosis. Moderate (2+) aortic regurgitation is seen. The 
severity of aortic regurgitation may be underestimated. The 
aortic regurgitation jet is eccentric. Physiologic mitral 
regurgitation is seen (within normal limits). There is trace TR 
with a tricuspid annulus of 38mm. There is a small pericardial 
effusion. 
POST-BYPASS: The patient is AV paced on low dose epi gtt. A well 
seated bioprosthetic valve is visualized in the aortic position 
with normal moving leaflets. There is no AI. Pk and mean 
pressure gradient across the valve is 15mmHg and 7mmHg 
respectively with a SV of 57cc. The remaining valves are 
unchanged. LV function remains unchanged. RV function is 
borderline on epi gtt. Aorta remains intact s/ p decannulation.  

.

___ 06:10AM BLOOD WBC-10.6* RBC-2.59* Hgb-7.8* Hct-24.8* 
MCV-96 MCH-30.1 MCHC-31.5* RDW-15.0 RDWSD-52.5* Plt ___
___ 09:00AM BLOOD WBC-17.5* RBC-2.95* Hgb-9.1* Hct-28.9* 
MCV-98 MCH-30.8 MCHC-31.5* RDW-15.8* RDWSD-56.6* Plt ___
___ 09:00AM BLOOD ___
___ 06:10AM BLOOD Glucose-96 UreaN-39* Creat-1.5* Na-136 
K-4.0 Cl-98 HCO3-25 AnGap-17
___ 06:00AM BLOOD Glucose-93 UreaN-53* Creat-2.0* Na-139 
K-4.1 Cl-100 HCO3-26 AnGap-17
___ 10:45AM BLOOD Glucose-127* UreaN-55* Creat-2.3* Na-139 
K-4.2 Cl-102 HCO3-26 AnGap-15
 
Brief Hospital Course:
Mr. ___ was a same day admit and on ___ was brought directly 
to the operating room where he underwent an aortic valve 
replacement. Please see operative note for surgical details. 
Following surgery he was transferred to the ___ for invasive 
monitoring in stable condition. Later this day he was weaned 
from sedation, awoke neurologically intact and extubated. On 
postoperative day one he was transferred to the step down unit 
for further recovery. He was gently diuresed towards his 
preoperative weight with a modest increase in his creat. His 
baseline creat was 1.9 and he peaked at 2.3. He was maintained 
on Lasix for diuresis and his creat was followed closely- At the 
time of discharge his creat was below his baseline at 1.5.  His 
chest tubes and epicardial wires were removed per protocol. The 
physical therapy service was consulted for assistance with his 
strength and mobility. Rehab was recommended. By the time of 
discharge he was ambulating with assist and a rolling walker. 
The wound was healing well. All instructions and appointments 
were advised. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Allopurinol ___ mg PO QPM 
2. Carvedilol 25 mg PO BID 
3. FLUoxetine 20 mg PO QPM 
4. Levothyroxine Sodium 125 mcg PO DAILY 
5. Losartan Potassium 100 mg PO QHS 
6. Simvastatin 40 mg PO QPM 
7. Torsemide 100 mg PO DAILY 
8. Aspirin 81 mg PO DAILY 
9. Vitamin D 1000 UNIT PO DAILY 
10. Vitamin E 400 UNIT PO DAILY 

 
Discharge Medications:
1.  Acetaminophen 650 mg PO/PR Q4H:PRN pain or temperature >38.0 
 
2.  Docusate Sodium 100 mg PO BID 
hold for loose stool  
3.  OxyCODONE (Immediate Release) ___ mg PO Q4H:PRN Pain: 
moderate/severe 
RX *oxycodone 5 mg ___ tablet(s) by mouth every four (4) hours 
Disp #*40 Tablet Refills:*0 
4.  Ranitidine 150 mg PO DAILY  
5.  Sarna Lotion 1 Appl TP QID:PRN itching  
6.  Carvedilol 12.5 mg PO BID  
7.  Losartan Potassium 25 mg PO QHS  
8.  Allopurinol ___ mg PO QPM  
9.  Aspirin 81 mg PO DAILY  
10.  FLUoxetine 20 mg PO QPM  
11.  Levothyroxine Sodium 125 mcg PO DAILY  
12.  Simvastatin 40 mg PO QPM  
13.  Torsemide 100 mg PO DAILY  
14.  Vitamin D 1000 UNIT PO DAILY  
15.  Vitamin E 400 UNIT PO DAILY  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Aortic Insufficiency s/p Aortic valve replacement
Past medical history:
Anemia
Chronic Kidney Disease (Cre 1.76-2.08) - Single kidney
Renal atrophy
Chronic Obstructive Pulmonary Disease 
Depression
Gout 
Hyperlipidemia
Hypertension
Hypothyroid
Non-Ischemic Cardiomyopathy
Obesity 
Pulmonary Hypertension
Seizure
Sleep Apnea, CPAP recommended but patient declined
Tricuspid Regurgitation
Appendectomy
 
Discharge Condition:
Alert and oriented x3 non-focal 
Ambulating, deconditioned
Incisional pain managed with oral analgesics
Incisions: 
Sternal - healing well, no erythema or drainage 
Edema trace

 
Discharge Instructions:
Please shower daily including washing incisions gently with mild 
soap, no baths or swimming until cleared by surgeon. Look at 
your incisions daily for redness or drainage
Please NO lotions, cream, powder, or ointments to incisions 
Each morning you should weigh yourself and then in the evening 
take your temperature, these should be written down on the chart 

No driving for approximately one month and while taking 
narcotics, will be discussed at follow up appointment with 
surgeon when you will be able to drive 
No lifting more than 10 pounds for 10 weeks
Please call with any questions or concerns ___

**Please call cardiac surgery office with any questions or 
concerns ___. Answering service will contact on call 
person during off hours**
 
Followup Instructions:
___